US07964732B2
To a suspension of 6-quinolinecarboxylic acid (12 g, 69 mmol) in DMF (100 mL) was added 1,1′-Carbonyldiimidazole (11.2 g, 69.3 mmol) and the mixture stirred at 40° C. for 1 hour. tert-Butanol (13 mL, 139 mmol) and 1,8-Diazabicyclo[5.4.0]undec-7-ene (10.4 mL, 69.3 mmol) were added and the mixture was stirred at 80° C. for 4 h. After cooling to room temperature the reaction mixture was quenched with water (400 mL) and extracted with ethyl acetate/heptane (1:3, 2×400 mL). The organic layer was dried over MgSO4 and concentrated to give quinoline-6-carboxylic acid t-butyl ester (14.54 g, 92%). 1H NMR (400 MHz, CDCl3) δ 1.63 (9H, s), 7.42-7.46 (1H, m), 8.10 (1H, d), 8.23 (1H, d), 8.26 (1H, d), 8.50 (1H, d), 8.96-8.98 (1H, m). LCMS: Retention time: 1.42 min. MS (ESI) m/z 230 (M+H)+

reactant | 6-quinolinecarboxylic acid | 69 mmol, 12 g | N1=CC=CC2=CC(=CC=C12)C(=O)O | C10H7NO2
reactant | 1,1′-Carbonyldiimidazole | 69.3 mmol, 11.2 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | tert-Butanol | 139 mmol, 13 mL | C(C)(C)(C)O | C4H10O
reactant | 1,8-Diazabicyclo[5.4.0]undec-7-ene | 69.3 mmol, 10.4 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | quinoline-6-carboxylic acid t-butyl ester | 14.54 g, 92% | C(C)(C)(C)OC(=O)C=1C=C2C=CC=NC2=CC1 | C14H15NO2
